US08217064B2
A mixture of ethyl 5-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-spiro[2,3]hexane-5-carboxylate (0.5 g, 0.9 mmol) and lithium hydroxide monohydrate (0.415 g, 9.88 mmol) in a MeOH/THF/Water solvent mixture (10 ml/10 ml/10 ml) was stirred for 3 h at room temperature. After completion of reaction volatiles were removed under reduced pressure. Residue was diluted with water, acidified with 5% HCl solution and extracted with ethyl acetate (3×50 mL). The combined organic layer was washed with water, dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified by Flash Column Chromatography to give 5-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-spiro[2,3]hexane-5-carboxylic acid (0.29 g). 1H-NMR (CDCl3, 400 MHz): 7.72 (d, 2H); 7.65 (d, 2H), 7.41 (s, 1H); 7.21 (s, 1H); 3.98 (q, 2H); 2.95 (d, 2H); 2.75 (d, 2H), 0.58 (t, 2H), 0.48 (t, 2H).

reactant | ethyl 5-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-spiro[2,3]hexane-5-carboxylate | 0.9 mmol, 0.5 g | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C1(CC2(CC2)C1)C(=O)OCC | C24H21ClF6O3
reactant | lithium hydroxide monohydrate | 9.88 mmol, 0.415 g | O.[OH-].[Li+]
solvent | MeOH THF Water | CO.C1CCOC1.O
product | 5-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-spiro[2,3]hexane-5-carboxylic acid | 0.29 g | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C1(CC2(CC2)C1)C(=O)O | C22H17ClF6O3
